US05703050
a) Ethyl 3-(4-cyanophenyl)ureidoacetate
A solution of 2.74 g (23 mmol) of 4-aminobenzonitrile in 10 ml of dimethoxyethane is added dropwise to a cooled solution (0° C.) of 3 g (23 mmol) of ethyl isocyanatoacetate in 10 ml of dimethoxyethane and the mixture is stirred at room temperature. The product is filtered off and washed with dimethoxyethane.

reactant | 4-aminobenzonitrile | 23 mmol, 2.74 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | ethyl isocyanatoacetate | 23 mmol, 3 g | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | Ethyl 3-(4-cyanophenyl)ureidoacetate | C(#N)C1=CC=C(C=C1)NC(NCC(=O)OCC)=O | C12H13N3O3
